Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizures, confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old ___ woman with a PMHx of 
TIIDM, pituitary mass s/p resection ___, and hyperlipidemia who 
presents as a direct admission to the EMU due to her history of 
seizures, recent lapses in memory, and fatigue for better 
characterization of her seizures and medication adjustment. She 
is followed outpatient by Dr. ___. The HPI is 
obtained from previous notes and from interview with patient 
through an interpreter.

In brief, Ms. ___ initially presented to the Access Neurology 
clinic in ___ with five episodes of loss of 
consciousness which were thought to be seizures. These episodes 
were not well characterized, but per her son-in-law, occurred 
while at work in a ___ restaurant, while she was sleeping at 
home, and at ___, when she was found at the store with no 
shoes and no recollection of how she got to the store. The 
patient does not recall these episodes, but states that her 
husband described the final two episodes as foaming at the mouth 
and jerking of her hands. She was started initially by her PCP 
on ___ 750 BID. 

After self-discontinuing this medication due to GI side effects 
attributed to it, she experienced one more episode in ___. She has not had any episodes with jerking of her 
extremities or loss of awareness, such as the ___ 
incident since re-starting her Keppra after this. She does 
however complain of light-headedness, fatigue, and brief memory 
lapses. She characterizes the memory lapses as being in a room 
and forgetting why she is there, or holding an object in her 
hands such as plates and forgetting why she is holding them and 
what she is doing with them. This happens ___ times per day and 
did not occur prior to her first seizure. She denies vertigo, 
poor sleep, ___, jamais ___, paresthesias. However she does 
endorse a rising sense of fear in her abdomen that is sometimes 
associated with these episodes. 

Routine EEG in ___ showed an electrographic seizure from 
the right temporal region as well as periodic discharges. MRI 
from ___ is reviewed in detail below, but in brief 
showed no evidence of hemorrhage, edema, mass, mass effect and 
showed a nonspecific right temporal superficial soft tissue 
density which was previously noted on head CT. 

Given these new episodes of memory lapse, continued seizure 
activity on EEG despite levetiracetam, and possible toxicity 
from levetiracetam resulting in fatigue and dizziness, Ms. ___ 
is admitted for EEG monitoring and medication adjustment. 

Her further is also notable for a history of a resection of 
pituitary mass in ___. She reports having double vision prior 
to discovery of the mass. It also appears that she received 
radiation therapy post-operatively. It is unclear at this time 
what evaluation or monitoring has been done from an 
endocrinologic perspective since her arrival to the ___. 
Furthermore, she has been incidentally found to have a right 
frontotemporal nonspecific superficial soft tissue density on 
imaging, the etiology of which is unclear but could be related 
to her surgery. 

On neuro ROS, she endorses having headache ___ times per week 
with associated visual phenomenon of seeing "shadows" in her 
vision. The headache is most prominent across the front of her 
forehead and extends to her temples bilaterally. While she 
endorses having had diplopia prior to her pituitary surgery, she 
currently denies diplopia. She additionally denies dysarthria, 
dysphagia, difficulties producing or comprehending speech.

On general review of systems, the pt denies chest pain, SOB. She 
endorses dry mouth.
 
Past Medical History:
1. Diabetes Type II
2. Pituitary Mass s/p resection in ___ in ___
3. Vitamin D deficiency
4. Hyperlipidemia
 
Social History:
___
Family History:
No known family history of seizure disorder. 
 
Physical Exam:
ON ADMISSION
===========
Vitals: 98.3 119/78 58 18 94RA 
General: awake, cooperative, NAD.
HEENT: Dry mouth. NC/AT, no scleral icterus noted.
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented to self, hospital, and date. 
Able
to relate history through interpreter. Attentive, able to name
___ backward without difficulty. Language appears to be fluent
per interpreter. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI. Left gaze
fatigable nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch. No extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF

-Gait: Deferred

ON DISCHARGE
============
Vitals: 97.6 115/77 65 16 94% RA
General: awake, cooperative, NAD.
HEENT: Dry mouth. NC/AT, no scleral icterus noted.
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented to self, hospital, and date. 
Able to relate history through interpreter. Attentive, able to 
name ___ backward without difficulty. Language appears to be 
fluent per interpreter. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI. No nystagmus. 
Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Slight right sided 
pronator drift.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch. No extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF.
 
Pertinent Results:
___ 08:35AM BLOOD WBC-5.5 RBC-4.63 Hgb-13.6 Hct-40.5 MCV-88 
MCH-29.4 MCHC-33.6 RDW-12.7 RDWSD-40.2 Plt ___
___ 08:35AM BLOOD Glucose-311* UreaN-13 Creat-1.0 Na-140 
K-3.7 Cl-98 HCO3-22 AnGap-20*
___ 08:35AM BLOOD ALT-31 AST-25 LD(LDH)-179 AlkPhos-77 
TotBili-0.7
___ 08:35AM BLOOD Albumin-4.4 Calcium-9.2 Phos-3.8 Mg-2.2
___ 08:35AM BLOOD FSH-4.8 LH-2.2 Prolact-2.9* TSH-1.0
___ 12:01PM URINE Color-Straw Appear-Clear Sp ___
___ 12:01PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 
Leuks-MOD*
___ 12:01PM URINE RBC-1 WBC-19* Bacteri-NONE Yeast-NONE 
Epi-1
 
Brief Hospital Course:
Ms. ___ is a ___ ___ speaking only woman with a past 
medical history significant for a pituitary mass resected in 
___ in ___ that she was told was benign; type 2 diabetes; 
hyperlipidemia who started having episodes of memory lapses over 
the last one to ___ years. For example, she would be performing 
activity such as doing the dishes and then suddenly not remember 
why she had dishes in her hands. She was evaluated by Dr. 
___ in ___ ___ Department and an EEG was obtained on 
___, which revealed one electrographic seizure with a 
right temporal onset and without clear clinical correlate and 
temporal intermittent rhythmic delta activity as well as 
frequent left anterior temporal epileptiform discharges 
occurring in 1 Hz periodic runs as well as intermittent focal 
slowing of the left frontotemporal region indicative of focal 
cerebral dysfunction. Her Keppra was continued at that time at 
750 mg b.i.d. She has continued to have episodes of 
forgetfulness and has subsequently been let go from her job. She 
was admitted to the EMU for cvEEG in order to evaluate for any 
evidence of subclinical seizures as well as her medication 
optimization. In addition to her home dose of lamotrigine 1500 
mg daily, she was started on lacosamide 50 mg twice daily, which 
was subsequently increased to 150 mg twice daily, or 300 mg 
daily dose. One seizure was detected at 1738 on ___ with ___ Hz 
rhythmic discharges that rapidly lateralized over the left 
temporal region with no obvious clinical correlate. This lasted 
approximately 10 seconds. She also had frequent independent 
right and left mesiotemporal epileptiform discharges admixed 
with sharp bursts of rhythmic theta but no other seizures. 

TRANSITIONAL ISSUES:
-Consider wean from Keppra, given her report of increased 
fatigue since starting Keppra. 
-FSH, LH, TSH, and prolactin were all measured for further 
evaluation of her endocrine status after resection of pituitary 
mass. All levels were lower than reference ranges. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 750 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Mirtazapine 15 mg PO QHS 
6. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1.  LACOSamide 100 mg PO BID 
RX *lacosamide [Vimpat] 150 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  LevETIRAcetam 750 mg PO BID  
4.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
5.  Mirtazapine 15 mg PO QHS  
6.  Simvastatin 20 mg PO QPM  
7.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy.  Intractable temporal lobe epilepsy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___.

You were in the hospital so we could monitor you for seizures. 
We also wanted to see if your episodes of confusion were due to 
seizures.

You had one seizure while at ___. You did not have any 
episodes of confusion. We added a new medication called 
Lacosamide to help prevent seizures.

When you leave the hospital, it will be very important to take 
BOTH seizure medications. You will follow up with Dr ___ to 
discuss possibly stopping your Keppra.

Best wishes,
Your ___ team
 
Followup Instructions:
___